US08044196B2
Preparation of 2-methyl-4-(4-methyl-1-piperazinyl)-10H-thieno-[2,3-b][1,5]benzodiazepine
2-(2-Aminoanilino)-5-methylthiophene-3-carbonitrile (2.0 g) is taken in N-methyl-piperazine (12 ml) and N-methyl piperazine.HCl (4.6 g). The solution is heated at 120° C. until completion of reaction. The reaction mass is cooled to 70-75° C. and acetone and activated charcoal are added. The reaction mixture is stirred for 30 minutes and filtered. The water is added at 45-50° C., the mixture is cooled up to room temperature and the precipitated solid is filtered off and washed with acetone-water mixture.

reactant | 2-(2-Aminoanilino)-5-methylthiophene-3-carbonitrile | 2.0 g | NC1=C(NC=2SC(=CC2C#N)C)C=CC=C1 | C12H11N3S
reactant | HCl | 4.6 g | Cl | ClH
reactant | acetone | CC(=O)C | C3H6O
reactant | charcoal | C | CH4
reactant | N-methyl-piperazine | 12 ml | CN1CCNCC1 | C5H12N2
product | 2-methyl-4-(4-methyl-1-piperazinyl)-10H-thieno-[2,3-b][1,5]benzodiazepine | CC1=CC2=C(NC3=C(N=C2N2CCN(CC2)C)C=CC=C3)S1 | C17H20N4S
